Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with PMH of DM2, HLD, 
HTN,
intermittent hematuria ___ year followed by ___ [Urology], who
presents with pain with urination and fever. He reports that 
this
pain is mild, feels like burning, associated with urination, for
the past two days. He reports that this started as urinary
frequency and feelings of incomplete voiding. He then developed
the burning pain. Also reports back pain 1 day ago, though this
stopped. He also has had poor appetite and some nausea. He went
to outpatient clinic, where a u/a was significant for WBC 73 (+)
leuks (-) nitrites. Antibiotics were not started pending culture
results. However, this morning patient felt hot to his wife, who
checked his temperature. She states that this was 101.6. She 
gave
him Tylenol and brought him to the ED.

On review of records, has been followed by Dr. ___ in urology 
for
the past year for hematuria. He has had a CTU showing bilateral
renal cysts and a 3mm nonobstructing stone with no
hydronephrosis. A  cystoscopy which was negative for malignant
cells. In ___ a renal ultrasound showed mild to moderate
right hydronephrosis, unclear whether these are secondary to UPJ
obstruction or mass effect by the large right parapelvic cyst,
and multiple large cortical cysts involving the left kidney.
Therefore, he underwent a renal scan, with no evidence of
significant functional obstruction.
 
In the ED, initial vitals: T 96.5, HR 79, BP 149/87, RR 18, 100%
RA
 
Past Medical History:
- HTN
- Hyperlipidemia
- Type II Diabetes
- Chronic Hematuria with renal cysts 
 
Social History:
___
Family History:
Mother and father passed away of CAD in their
___. No history of early heart disease or sudden death. No 
family
history of malignancy.
 
Physical Exam:
ADMISSION:
VITALS: T 99.7, HR 80, BP 128/66, RR 16, 98% RA  
GENERAL: Alert, tired appearing lying on side, NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation. No CVA
tenderness 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
================================================================
DISCHARGE:
___ 0736 Temp: 98.4 PO BP: 138/75 HR: 61 RR: 18 O2 sat: 95%
O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 07:44AM BLOOD WBC: 9.5 Hgb: 12.8* Plt Ct: 160 
___ 07:44AM BLOOD Na: 139 K: 4.2 Cl: 102 HCO3: 23 UreaN: 15
Creat: 0.9 
Phos: 2.6* Mg: 1.9 

CXR:Cardiac, mediastinal and hilar contours appear stable.  
There
is no pleural effusion or pneumothorax.  Lungs appear clear. 
IMPRESSION: No evidence of acute cardiopulmonary disease. 

URINE CULTURE (Final ___: 
 ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE  Cefazolin
interpretative criteria are based on a dosage regimen of 2g 
every
8h. 

    SENSITIVITIES: MIC expressed in MCG/ML
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

======================================================
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with PMH of DM2, HLD, 
HTN,
intermittent hematuria ___ year followed by ___ [Urology], who
presents with pain with urination and fever, concerning for
sepsis ___ urinary tract infection.

ACUTE/ACTIVE PROBLEMS:
# Sepsis, likely secondary to urinary tract infection
Patient presenting with fever, leukocytosis, with urinary
symptoms and a positive u/a. Most likely sepsis ___ UTI. Has
blood cultures pending. No abdominal symptoms or other 
localizing
symptoms noted. Was started on ceftriaxone for complicated UTI.
Urine cx growing E coli pan-sensitive. 
- De-escalated Abx to PO Cipro with plans to complete 2 weeks 
Abx therapy (day 1
appropriate Abx ___. 
- f/u blood cultures
- CXR unremarkable

# Thrombocytopenia - 140s from 190s in ___. Likely 
related
to infection. No anemia to suggest MAHA. 
- continued to monitor

# Elevated lactate - In setting of normotension. Resolved with
IVF.

# History of hematuria and renal cysts
- consider repeat renal ultrasound outpatient

# Hypophosphatemia- repleted. Would recheck levels in ___ weeks.

CHRONIC/STABLE PROBLEMS:
# Hypertension
Held home antihypertensives initially, became more hypertensive 
so resumed home amolodipine and ___ on day of discharge.  

# DMT2
- held home metformin, resume on discharge
- ISS in house 

# Hyperlipidemia
- continued home atorvastatin
- continued home ezetimibe 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Ezetimibe 10 mg PO DAILY 
4. Furosemide ___ mg PO DAILY:PRN weight gain or swelling 
5. Losartan Potassium 50 mg PO DAILY 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Multivitamins 1 TAB PO DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 12 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*24 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Ezetimibe 10 mg PO DAILY  
6.  Furosemide ___ mg PO DAILY:PRN weight gain or swelling  
7.  Losartan Potassium 50 mg PO DAILY  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis, likely secondary to urinary tract infection
E coli urinary tract infection, present on admission
Thrombocytopenia, mild
Elevated lactate, resolved
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You presented with pain with urination and fever and you were 
treated for urinary tract infection that was found to be due to 
the bacteria called E. coli.  You have been on antibiotics with 
this, and should continue the oral ciprofloxacin to complete on 
___. 

Please follow-up with your primary care provider outpatient in 
the next ___ weeks.  Thank you for allowing us to participate in 
your care.

Sincerely,
Your ___ Team

 
Followup Instructions:
___